US07125871B2
(2SR, 1′SR, 2′RS, 3′RS)-2-[3′-(benzoylhydrazinocarbonyl)-2′-carboxycyclopropyl]glycine
To a solution of ethyl (1SR, 2 SR, 5RS, 6RS) 3-tert -butoxycarbonyl-4-oxo-3-azabicyclo[3.1.0]hexane-2,6-dicarboxylate (88 mg, 0.25 mmol) in dry THF (2 mL) under argon was added benzoic hydrazide (209 mg, 1.54 mmol) and potassium cyanide (0.83 mg, 0.01 mmol). After stirring overnight in an ultrasonic bath, the solvent was removed under reduced pressure. The residue was directly purified by flash chromatography (hexane/ethyl acetate 1/1) to give 84 mg of the desired compound (72% yield).

reactant | 3-tert -butoxycarbonyl-4-oxo-3-azabicyclo[3.1.0]hexane-2,6-dicarboxylate | 0.25 mmol, 88 mg | C(C)(C)(C)OC(=O)N1C(C2C(C2C1=O)C(=O)[O-])C(=O)[O-]
reactant | benzoic hydrazide | 1.54 mmol, 209 mg | C(C1=CC=CC=C1)(=O)NN | C7H8N2O
solvent | THF | 2 mL | C1CCOC1 | C4H8O
catalyst | potassium cyanide | 0.01 mmol, 0.83 mg | [C-]#N.[K+]
product | 2-[3′-(benzoylhydrazinocarbonyl)-2′-carboxycyclopropyl]glycine | 84 mg, 72% yield | C(C1=CC=CC=C1)(=O)NNC(=O)C1C(C1C(N)C(=O)O)C(=O)O | C14H15N3O6
